US04044020
64 g nitroethanol, 50 ml glacial acetic acid, 250 ml benzene and 5 drops conc. H2SO4 were refluxed, using a water separator for 8 hours; 12 ml of H2O were collected. The solution was evaporated and vacuum distilled (1mm at 60° C) yielding 89 g colorless nitroethylacetate.

reactant | nitroethanol | 64 g | [N+](=O)([O-])C(C)O | C2H5NO3
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
catalyst | H2SO4 | 5 drops | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
product | nitroethylacetate | 89 g | [N+](=O)([O-])CCOC(C)=O | C4H7NO4
